US07157488B2
Combine moist Raney nickel (330 g), 2-methylthio-5-trifluoromethyl-1H-indole (33.8 g, 146.2 mmol) and absolute ethanol (850 ml) and stir. After 1.5 hours, filter the mixture through celite and wash the celite with ethanol (500 ml). Evaporate the filtrate to dryness, add toluene (20 ml) and evaporate and dry to give 5-trifluoromethylindole: mp=55–60° C.

reactant | 2-methylthio-5-trifluoromethyl-1H-indole | 146.2 mmol, 33.8 g | CSC=1NC2=CC=C(C=C2C1)C(F)(F)F | C10H8F3NS
catalyst | Raney nickel | 330 g | [Ni] | Ni
solvent | ethanol | 850 ml | C(C)O | C2H6O
product | 5-trifluoromethylindole | FC(C=1C=C2C=CNC2=CC1)(F)F | C9H6F3N
